US05217643
5.6 g of 2,3-dicyanohydroquinone and 4.6 g of 85%-potassium hydroxide were added to a mixture solvent of 15 ml of methanol and 60 ml of N,N-dimethylformamide, followed by heating to 50° C. to provide a solution. To the solution, 11.0 g of 4-n-pentylcyclohexylmethyl methanesulfonate was added, followed by stirring for 3 hours at 100° C. After the reaction, the reaction mixture was poured into cold water and washed with ether. The water layer was acidified with 6N-hydrochloric acid aqueous solution until a pH value of 1 was shown, and was subjected to extraction with ether. The organic layer was washed successively with 5%-sodium hydrogenecarbonate aqueous solution and water, followed by drying with anhydrous magnesium sulfate and distilling-off of the solvent to obtain a crude product. The crude product was purified by silica gel column chromatography (eluent: toluene/ethyl acetate) and treated with activated carbon, followed by recrystallization from methanol to obtain 3.6 g of 4-n-pentylcyclohexylmethyl 2,3-dicyano- 4-hydroxyphenyl ether.

reactant | 2,3-dicyanohydroquinone | 5.6 g | C(#N)C1=C(O)C=CC(=C1C#N)O | C8H4N2O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 15 ml | CO | CH4O
reactant | 4-n-pentylcyclohexylmethyl methanesulfonate | 11.0 g | CS(=O)(=O)OCC1CCC(CC1)CCCCC | C13H26O3S
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-n-pentylcyclohexylmethyl 2,3-dicyano- 4-hydroxyphenyl ether | 3.6 g | C(#N)C1=C(C=CC(=C1C#N)O)OCC1CCC(CC1)CCCCC | C20H26N2O2
